data/mechanisms/records/IMS8-EQ8.55d.json
{"mechanism_id": "IMS8-EQ8.55d", "species": [{"species_id": "hexa_1_3_diene_radical_cation", "mapped_smiles": "[CH2:3]=[CH:2][CH+:1][CH:6][CH2:5][CH3:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "pentadienyl_cation", "mapped_smiles": "[CH2:3]=[CH:2][CH+:1][CH:6]=[CH2:5]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["hexa_1_3_diene_radical_cation"]}, {"state_id": "state_products", "species_ids": ["pentadienyl_cation", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_methyl_loss", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "bond", "atom_maps": [5, 6]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [4, 5]}, "target": {"type": "atom", "atom_maps": [4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_alpha_methyl", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_methyl_loss", "support_type": "textbook_proposed", "locator": {"page": 181, "equation": "8.55", "figure": null, "panel": null, "section": "8.9 Decompositions of cyclic structures"}, "confidence": 0.8, "curator_note": "Equation 8.55, BOTTOM row, the 'alpha' arrow drawn right-to-left: allylic (radical-site) alpha-cleavage of the rearranged 1,3-hexadiene radical cation expels a methyl radical (written 'CH3.' on the page) and leaves the resonance-stabilised pentadienyl cation. Book draws 0 arc(s) on this step (only the 'alpha'-labelled reaction arrow and the two products); moves <1,2,3> are curator-supplied hooks required for electron balance, none of them drawn. Encoded flow: radical site C6 -> forming pi C6=C5; one electron of the sigma C5-C4 -> that forming pi; the second electron of C5-C4 -> C4 (the departing CH3.). RESONANCE (convention C): the book draws the cation with the charge on the TERMINAL carbon that used to carry the methyl (CH2=CH-CH=CH-CH2+); the arrows as encoded produce the other resonance form, with the charge on the central carbon C1 (CH2=CH-CH(+)-CH=CH2), because the odd electron at C6 is consumed by the new C5=C6 pi bond while the positive charge stays where record IMS8-EQ8.55c left it. Both are the same delocalised pentadienyl cation C5H7+."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 82.0777, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_c5h7", "species_id": "pentadienyl_cation", "step_id": "step_alpha_methyl_loss", "observed_mz": 67.0542, "relative_intensity": null, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.4}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-27T00:00:00Z", "modified_at": "2026-07-27T00:00:00Z"}}
